US07781436B2
2-{6-Chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-pyridin-2-yl-ethanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone (preparation described herein), with commercially available 2-chloro-1-pyridin-2-yl-ethanone gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,6-dimethoxy-phenyl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C22H23ClN2O3
reactant | 2-chloro-1-pyridin-2-yl-ethanone | ClCC(=O)C1=NC=CC=C1 | C7H6ClNO
product | 2-{6-Chloro-3-[4-(2,6-dimethoxy-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-pyridin-2-yl-ethanone | ClC1=CC=C2C(=CN(C2=C1)CC(=O)C1=NC=CC=C1)C(=O)N1CCC(CC1)C1=C(C=CC=C1OC)OC | C29H28ClN3O4
